US07737166B2
7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-2-(pyrazin-2-yl)-1,3-benzoxazole-4-carbonitrile (#94)
(3S)-3-(Dimethylamino)pyrrolidine (93.4 μl, 0.736 mmol) and triethylamine (121 μl, 0.866 mmol) were added to a dimethyl sulfoxide (4 ml) solution of 7-fluoro-5-methyl-6-phenyl-2-(pyrazin-2-yl)-1,3-benzoxazole-4-carbonitrile (I-187) (143 mg, 0.433 mmol), followed by stirring in an oil bath at 95° C. for 0.2 hours. The reaction liquid was concentrated under reduced pressure, the residue was dissolved in chloroform (100 ml), washed with saturated brine (50 ml). After drying over anhydrous sodium sulfate, the solvent was evaporated away, and the resulting residue was purified by silica gel column chromatography (eluent, chloroform:methanol=9:1), the eluate was recrystallized from isopropanol to obtain the entitled compound (71.0 mg, 38.6%) as a pale yellow acicular crystal.

reactant | (3S)-3-(Dimethylamino)pyrrolidine | 0.736 mmol, 93.4 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | triethylamine | 0.866 mmol, 121 μl | C(C)N(CC)CC | C6H15N
reactant | 7-fluoro-5-methyl-6-phenyl-2-(pyrazin-2-yl)-1,3-benzoxazole-4-carbonitrile | 0.433 mmol, 143 mg | FC=1C(=C(C(=C2N=C(OC21)C2=NC=CN=C2)C#N)C)C2=CC=CC=C2 | C19H11FN4O
solvent | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
product | 7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-2-(pyrazin-2-yl)-1,3-benzoxazole-4-carbonitrile | 71.0 mg, 38.6% | CN([C@@H]1CN(CC1)C=1C(=C(C(=C2N=C(OC21)C2=NC=CN=C2)C#N)C)C2=CC=CC=C2)C | C25H24N6O
